US07524846B2
1-{1-[4-(2-phenylethoxy)phenyl]-2-piperazin-1-ylethyl}cyclohexanol dihydrochloride
In an analogous manner to Example 1, step 2 1-}1-[4-(2-phenylethoxy)phenyl]-2-piperazin-1-ylethyl}cyclohexanol dihydrochloride was prepared from tert-butyl 4-[(1-hydroxycyclohexyl)(4-(2-phenylethoxy)phenyl)acetyl]piperazine-1-carboxylate.

reactant | cyclohexanol dihydrochloride | Cl.Cl.C1(CCCCC1)O
reactant | tert-butyl 4-[(1-hydroxycyclohexyl)(4-(2-phenylethoxy)phenyl)acetyl]piperazine-1-carboxylate | OC1(CCCCC1)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCCC1=CC=CC=C1 | C31H42N2O5
product | 1-{1-[4-(2-phenylethoxy)phenyl]-2-piperazin-1-ylethyl}cyclohexanol dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCOC1=CC=C(C=C1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C26H36N2O2.2ClH/c29-26(14-5-2-6-15-26)25(21-28-18-16-27-17-19-28)23-9-11-24(12-10-23)30-20-13-22-7-3-1-4-8-22;;/h1,3-4,7-12,25,27,29H,2,5-6,13-21H2;2*1H
